US08808703B2
A solution of (15R,19R)-tert-butyl 15-amino-19-(decylcarbamoyloxy)-14,22-dioxo-4,7,10,21-tetraoxa-17-thia-13,23-diazatritriacontan-1-oate in 30% TFA in DCM (0.3 M) was stirred at room temperature until complete deprotection of the tert-butyl group (4 hours). The reaction was diluted with DCM and concentrated with a stream of nitrogen then purified by flash chromatography on a COMBIFLASH® system (ISCO) using a gradient of 0-10% MeOH/DCM with 0.5% AcOH to afford (15R,19R)-15-amino-19-(decylcarbamoyloxy)-14,22-dioxo-4,7,10,21-tetraoxa-17-thia-13,23-diazatritriacontan-1-oic acid as a clear oil. 1H NMR (DMSO-d6): δ 12.21 (br s, 1H), 8.22 (t, 1H), 7.23 (m, 2H), 4.92 (m, 1H), 4.18 (dd, 2H), 3.94 (m, 1H), 3.57 (t, 2H), 3.30-3.54 (m, 12H), 3.37 (t, 2H), 2.90-3.08 (m, 4H), 2.60-2.82 (m, 4H), 2.48 (t, 2H), 1.32 (m, 4H), 1.22-1.28 (m, 28H), 0.79 (t, 6H). LRMS [M+H]=765.5.

reactant | (15R,19R)-tert-butyl 15-amino-19-(decylcarbamoyloxy)-14,22-dioxo-4,7,10,21-tetraoxa-17-thia-13,23-diazatritriacontan-1-oate | N[C@H](C(NCCOCCOCCOCCC(=O)OC(C)(C)C)=O)CSC[C@@H](COC(NCCCCCCCCCC)=O)OC(NCCCCCCCCCC)=O | C41H80N4O10S
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.3 M | C(Cl)Cl | CH2Cl2
product | (15R,19R)-15-amino-19-(decylcarbamoyloxy)-14,22-dioxo-4,7,10,21-tetraoxa-17-thia-13,23-diazatritriacontan-1-oic acid | N[C@H](C(NCCOCCOCCOCCC(=O)O)=O)CSC[C@@H](COC(NCCCCCCCCCC)=O)OC(NCCCCCCCCCC)=O | C37H72N4O10S
